US03936470
A mixture of 11.7 parts of 2-bromo-4'-chloroacetophenone, 12.2 parts of 1-(p-chlorophenoxy)-2,3-propanediol, 3 parts of p-toluenesulfonic acid and 240 parts of benzene is stirred and refluxed for 20 hours in a four-necked round-bottom flask equipped with a watertrap. The benzene solution is washed successively with a diluted sodium hydroxide solution and with water. The solvent is removed in vacuo. The residue is triturated in methanol. The precipitated product is filtered off (methanol filtrate is set aside) and crystallized from toluene, yielding A-2-(bromomethyl-4-(p-chlorophenoxymethyl)-2-(p-chlorophenyl)-1,3-dioxolane; m.p. 165°C.

reactant | 2-bromo-4'-chloroacetophenone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 1-(p-chlorophenoxy)-2,3-propanediol | ClC1=CC=C(OCC(CO)O)C=C1 | C9H11ClO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | bromomethyl-4-(p-chlorophenoxymethyl)-2-(p-chlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C17H15BrCl2O3
